US07259183B2
Preparation of 4-bromo-2-chloro-1-(1-methylcyclopropyl)-benzene
The title compound was synthesized in analogy to 1-bromo-4-(1-methylcyclopropyl)-benzene (described in example S87) using diethyl zinc (2.59 ml, 1M solution in hexane, 2.59 mmol), trifluoroacetic acid (200 μl, 2.59 mmol), CH2I2 (209 μl, 2.59 mmol) and 4-bromo-2-chloro-1-isopropenylbenzene (300 mg, 1.30 mmol). The isolated residue was purified by flash column chromatography (100% pentane) to give 4-bromo-2-chloro-1-(1-methylcyclopropyl)-benzene (280 mg, 88%) as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ 7.48 (d, J=2.0 Hz, 1H), 7.30 (dd, J=2.0, 8.5 Hz, 1H), 7.22 (d, J=8.5 Hz, 1H), 1.32 (s, 3H), 0.81-0.73(m, 4H).

reactant | 1-bromo-4-(1-methylcyclopropyl)-benzene | BrC1=CC=C(C=C1)C1(CC1)C | C10H11Br
reactant | diethyl zinc | 2.59 mmol, 1M, 2.59 ml | C(C)[Zn]CC
reactant | trifluoroacetic acid | 2.59 mmol, 200 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | CH2I2 | 2.59 mmol, 209 μl | C(I)I | CH2I2
reactant | 4-bromo-2-chloro-1-isopropenylbenzene | 1.30 mmol, 300 mg | BrC1=CC(=C(C=C1)C(=C)C)Cl | C9H8BrCl
product | 4-bromo-2-chloro-1-(1-methylcyclopropyl)-benzene | 280 mg, 88% | BrC1=CC(=C(C=C1)C1(CC1)C)Cl | C10H10BrCl
